US08168794B2
To a solution of benzyl 3-(diethoxyphosphorylamino)-4-methylpiperidine-1-carboxylate (1.0 equiv.) in degassed MeOH was added Pd/C (10% by weight) and the reaction was stirred under a hydrogen atmosphere for 1 h. The solution was filtered, then concentrated to yield diethyl 4-methylpiperidin-3-ylphosphoramidate in 83% yield. LCMS (m/z): 251.1 (MH+).

reactant | benzyl 3-(diethoxyphosphorylamino)-4-methylpiperidine-1-carboxylate | 1.0 equiv. | C(C)OP(=O)(OCC)NC1CN(CCC1C)C(=O)OCC1=CC=CC=C1 | C18H29N2O5P
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | diethyl 4-methylpiperidin-3-ylphosphoramidate | 83% yield | CC1C(CNCC1)NP(OCC)(OCC)=O | C10H23N2O3P
